US07601844B2
4-Chloro-N-(1-(4-(4-chlorophenyl)-5,6-dihydropyridin-1(2H)-yl)-1-oxobutan-2-yl)benzamide
Example 224 was prepared in a similar manner as described for the preparation of Example 221 with the exceptions that 2-aminobutyric acid methyl ester hydrochloride was substituted for DL-alanine ethyl ester hydrochloride in Step 1, 4-chlorobenzoic acid was substituted for 3-chlorobenzoic acid in Step 2, and 4-(4-chlorophenyl)-4-hydroxypiperidine was substituted for 4-(4-chlorophenyl)piperidine hydrochloride in Step 4. Example 224 was provided by elimination during Step 5. MS found: (M+H)+=417.

reactant | 2-aminobutyric acid methyl ester hydrochloride | Cl.COC(C(CC)N)=O
reactant | DL-alanine ethyl ester hydrochloride | Cl.C(C)OC(C(N)C)=O
reactant | 4-chlorobenzoic acid | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | 3-chlorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | 4-(4-chlorophenyl)piperidine hydrochloride | Cl.ClC1=CC=C(C=C1)C1CCNCC1
product | 4-Chloro-N-(1-(4-(4-chlorophenyl)-5,6-dihydropyridin-1(2H)-yl)-1-oxobutan-2-yl)benzamide | ClC1=CC=C(C(=O)NC(C(=O)N2CC=C(CC2)C2=CC=C(C=C2)Cl)CC)C=C1 | C22H22Cl2N2O2
